US04064258
0.156 Mole of p-toluenesulfonyl chloride is dissolved in 150 ml. of anhydrous pyridine at 0° C, under nitrogen, and then 0.078 mole of 1-(hydroxymethyl)-4-methylbicyclo[2.2.2]octane is added slowly and the mixture then stirred for two hours. 2 Ml. of water is then added and the mixture stirred for five minutes and then poured into 600 ml. of ethyl acetate. The organic phase is washed twice with water, then washed with 2 Normal aqueous hydrochloric acid until no more pyridine remains. The ethyl acetate solution is then washed with aqueous saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate, and filtered. The filtrate is then evaporated under vacuum affording 4-methylbicyclo[2.2.2]oct-1-yl methanol tosylate.

reactant | p-toluenesulfonyl chloride | 0.156 Mole | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 1-(hydroxymethyl)-4-methylbicyclo[2.2.2]octane | 0.078 mole | OCC12CCC(CC1)(CC2)C | C10H18O
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methylbicyclo[2.2.2]oct-1-yl methanol tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCC12CCC(CC1)(CC2)C | C17H24O3S
